US06921753B2
(2R,3R,4S,5R)-2-{2-(Aminomethyl)-6-[(9H-fluoren-9-ylmethyl)amino]-9H-purin-9-yl}-5-(hydroxymethyl)tetrahydro-3,4-furandiol
Ammonia gas was passed through an ice cold solution of (2R,3R,4R,5R)-4-(acetyloxy)-2-[(acetyloxy)methyl]-5-{2-cyano-6-[(9H-fluoren-9-ylmethyl)amino]-9H-purin-9-yl}tetrahydro-3-furanyl acetate (1.2 g, 2 mmol) (Preparation 71) in ethanol (40 ml) until the solution was saturated. 10% Palladium on carbon (120 mg) was added and the reaction mixture was stirred under an atmosphere of hydrogen gas (413.7 kPa, 60 psi) at room temperature for 40 hours. The suspension was filtered through Arbocel (Trade Mark) and the solvent was removed from the filtrate under reduced pressure. The residue was purified by column chromatography on silica gel eluting with dichloromethane:methanol:0.88 concentrated aqueous ammonia (96:0.4 by volume) increasing in polarity to dichloromethane:methanol:0.88 concentrated aqueous ammonia (94:6:0.5 by volume). The solvent was removed under reduced pressure to give the title compound (358 mg) as a foam.

reactant | Ammonia | N | H3N
reactant | (2R,3R,4R,5R)-4-(acetyloxy)-2-[(acetyloxy)methyl]-5-{2-cyano-6-[(9H-fluoren-9-ylmethyl)amino]-9H-purin-9-yl}tetrahydro-3-furanyl acetate | 2 mmol, 1.2 g | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)N1C2=NC(=NC(=C2N=C1)NCC1C2=CC=CC=C2C=2C=CC=CC12)C#N)COC(C)=O | C31H28N6O7
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | Palladium on carbon | 120 mg | [Pd] | Pd
product | (2R,3R,4S,5R)-2-{2-(Aminomethyl)-6-[(9H-fluoren-9-ylmethyl)amino]-9H-purin-9-yl}-5-(hydroxymethyl)tetrahydro-3,4-furandiol | 358 mg | NCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)CO)NCC1C2=CC=CC=C2C=2C=CC=CC12 | C25H26N6O4
